Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3],0.72390615109
[C:6]#[C:7][O:8][H:9].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][H:9],-2.59357513113
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3],5.132993859719999
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[O:12][H:13]>>[H:11].[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:12][H:13],4.58794009891
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[O:4],0.745287230341
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14],3.8739785717
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],3.76352203191
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.29873252166
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.33191662406
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],4.50192463792
[H:1][O:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.16627472416
[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-1.62814397965
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][H:3].[O:4]=[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.94661705299
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2],0.22234067972
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.65222332909
[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.6269621680000002
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.94820332949
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])([H:9])[H:10].[H:6],4.0761751785900024
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8].[O:1],7.936601588689999
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]=[C:4]([H:5])[H:6])=[C:8]\[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:7],2.10079557092
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.82861487698
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([O:8][C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.35386342072
[H:1][O:2]/[C:3](=[C:4](/[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],2.34994035733
[H:3].[O:1]=[C:2]=[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.61284735272
[H:1][O:2]/[C:3]([H:4])=[C:7](/[O:6][C:5])[H:8]>>[H:1][O:2][C@:3]1([H:4])[C:5][O:6][C:7]1[H:8],0.65780633359
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],3.47523281
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:6],1.8228397276400004
